US06919361B2
1H-NMR (CDCl3): δ 1.43 (9H, s), 3.38 (2H, m), 3.94 (2H, t, J=5.5), 5.77 (1H, s), 5.91 (1H, m), 7.05-7.12 (3H, m), 7.28-7.38 (4H, m), 7.59 (2H, d, J=8.4) (2) N-[3-(2-Aminoethyl)-4-(4-bromophenyl)thiazol-2(3H)-ylidene]aniline
A mixture of t-butyl 2-[4-(4-bromophenyl)-2-(phenylimino)-thiazol-3(2H)-yl]ethylcarbamate (1.5 g), trifluoroacetic acid (10 ml) and water (5 ml) was stirred at room temperature for 2 hours. The reaction mixture was concentrated under reduced pressure, and to the residue was added a saturated aqueous sodium hydrogen carbonate solution, and the mixture was extracted with chloroform. The organic layer was washed with a saturated brine, dried over sodium sulfate, and the solvent was evaporated. The residue was crystallized from n-hexane to give the title compound (937 mg).

reactant | t-butyl 2-[4-(4-bromophenyl)-2-(phenylimino)-thiazol-3(2H)-yl]ethylcarbamate | 1.5 g | BrC1=CC=C(C=C1)C=1N(C(SC1)=NC1=CC=CC=C1)CCNC(OC(C)(C)C)=O | C22H24BrN3O2S
reactant | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | water | 5 ml | O | H2O
product | N-[3-(2-Aminoethyl)-4-(4-bromophenyl)thiazol-2(3H)-ylidene]aniline | 937 mg | NCCN1C(SC=C1C1=CC=C(C=C1)Br)=NC1=CC=CC=C1 | C17H16BrN3S
